US07674789B2
3-[2-(1,4′-bipiperidin-1′-yl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (17 mg, 0.034 mmol) in DCM (2 mL) was added 1,4′-bipiperidine (16 mg, 0.10 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (13 mg, 63%). LC-MS m/z 604 (M+H)+; 1H-NMR (MeOD) δ 1.00 (t, 3H), 1.50 (m, 4H), 1.68 (m, 6H), 1.92 (m, 2H), 2.31 (s, 3H), 2.73 (m, 2H), 2.90 (m, 5H), 3.37 (m, 2H), 4.16 (m, 2H), 4.52 (m, 2H), 7.16 (m, 2H), 7.46 (m, 1H), 7.51 (m, 1H), 7.68 (s, 1H), 7.86 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.034 mmol, 17 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | 1,4′-bipiperidine | 0.10 mmol, 16 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(1,4′-bipiperidin-1′-yl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 13 mg, 63% | N1(CCCCC1)C1CCN(CC1)C=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NCCC)C=CC1C | C33H39F2N7O2
